* AD103 Lab 03 - the output characteristic: I_D vs V_DS, one curve per V_GS
*
* This is the picture of the channel, drawn by a simulator. Every bend in it
* is the channel doing something physical:
*   rising, straight-ish   -> triode: a resistor whose value the gate sets
*   knee                   -> the drain end of the channel pinches off
*   flat                   -> saturation: current stops caring about V_DS
*
* Device: W = 5 um, L = 1 um. Long, on purpose - see the guide page
* "Where saturation starts" for why the minimum-length device is a liar.
*
* W and L are PLAIN MICRON NUMBERS. W=5 means five micrometres. Never W=5u.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

XM1 d g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5

Vgs g 0 0
Vds d 0 0

.control
* Five sweeps of V_DS, one per gate voltage. Each 'dc' makes its own plot,
* named dc1 ... dc5 in the order they ran, and the vectors stay addressable
* afterwards as dc1.i(vds), dc2.i(vds), ...
foreach vg 0.6 0.9 1.2 1.5 1.8
  alter Vgs = $vg
  dc Vds 0 1.8 0.01
end

setplot dc1
* ngspice reports current INTO the + terminal of a source, so i(vds) is
* negative while the transistor conducts. Flip the sign once, here.
let id_vgs06 = -dc1.i(vds)
let id_vgs09 = -dc2.i(vds)
let id_vgs12 = -dc3.i(vds)
let id_vgs15 = -dc4.i(vds)
let id_vgs18 = -dc5.i(vds)

wrdata ../results/id_vds.txt id_vgs06 id_vgs09 id_vgs12 id_vgs15 id_vgs18

print id_vgs18[180]
.endc
.end
